US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide
3-Hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide (209 mg, 0.66 mmol), 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine (159 mg, 0.80 mmol) and potassium carbonate (184 mg, 1.33 mmol) were dissolved/suspended in acetonitrile (3.5 mL). The reaction mixture was heated in a microwave reactor for 4 hours at 120° C. then cooled, filtered and reduced in vacuo. The crude product was purified by chromatography on silica, eluting with 0-5% methanol in DCM, to give the required product as a white foam (39 mg). 1H NMR δ (d6-DMSO): 1.57-1.68 (m, 2H), 1.97-2.05 (m, 2H), 2.26-2.36 (m, 2H), 3.47-3.55 (m, 2H), 3.78 (s, 3H), 3.84-3.91 (m, 2H), 4.10 (t, 2H), 4.57 (t, 2H), 4.67-4.75 (m, 1H), 6.58 (d, 1H), 7.11 (t, 1H), 7.43 (t, 1H), 7.54 (t, 1H), 7.60 (d, 1H), 8.56 (d, 1H), 8.68 (d, 1H), 10.80 (s, 1H); m/z 479 (M+H)+

reactant | 3-Hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide | 0.66 mmol, 209 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1CCOCC1 | C16H19N3O4
reactant | 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine | 0.80 mmol, 159 mg | N1(CCC1)C(=O)C1=NC=C(N=C1)Cl | C8H8ClN3O
reactant | potassium carbonate | 1.33 mmol, 184 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide | 39 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1CCOCC1 | C24H26N6O5
